US08686048B2
Intermediate 67: 2′-chloro-2-fluoro-5′-methoxybiphenyl-4-amine
The title compound (280 mg) was prepared from 4-bromo-3-fluoroaniline (227 mg, 1.2 mmol) and 2-chloro-5-methoxyphenylboronic acid (290 mg, 1.6 mmol) as a pale-yellow liquid.

reactant | 4-bromo-3-fluoroaniline | 1.2 mmol, 227 mg | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | 2-chloro-5-methoxyphenylboronic acid | 1.6 mmol, 290 mg | ClC1=C(C=C(C=C1)OC)B(O)O | C7H8BClO3
product | 2′-chloro-2-fluoro-5′-methoxybiphenyl-4-amine | 280 mg | ClC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)N)F | C13H11ClFNO
